US05594021
2-i-propylbenzo[b]thiophene-3-sulfonyl chloride compound was prepared by the method of Example 40B with DMF (5.2 mmoles, 0.40 ml), using sulfuryl chloride (4.2 mmoles, 0.34 ml) and 2-i-propylbenzo[b]thiophene (2.1 mmoles, 0.37 g). Flash chromatography (1% ethyl acetate/hexanes) provided 0.17 g (29%) of a yellow solid.

reactant | DMF | 5.2 mmoles, 0.40 ml | CN(C)C=O | C3H7NO
reactant | sulfuryl chloride | 4.2 mmoles, 0.34 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-i-propylbenzo[b]thiophene | 2.1 mmoles, 0.37 g | C(C)(C)C1=CC2=C(S1)C=CC=C2 | C11H12S
product | 2-i-propylbenzo[b]thiophene-3-sulfonyl chloride | C(C)(C)C1=C(C2=C(S1)C=CC=C2)S(=O)(=O)Cl | C11H11ClO2S2
